US08013203B2
To a stirred solution of 2-hydroxy-5-iodostyrene, 4-(methoxymethoxy)benzoic acid, and DCC in methylene chloride at 23° C. was added DMAP, and the resulting mixture was stirred at 23° C. for 21 hours. The reaction mixture was then filtered over celite and concentrated in vacuo. Purification by flash chromatography (SiO2, hexanes:ethyl acetate 5:1) yielded (2-vinyl-4-iodophenyl)-4-methoxymethoxybenzoate as a colorless solid (4.6 g, 79%).

reactant | 2-hydroxy-5-iodostyrene | OC1=C(C=C)C=C(C=C1)I | C8H7IO
reactant | 4-(methoxymethoxy)benzoic acid | COCOC1=CC=C(C(=O)O)C=C1 | C9H10O4
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2-vinyl-4-iodophenyl)-4-methoxymethoxybenzoate | 4.6 g, 79% | C(=C)C1=C(C=CC(=C1)I)OC(C1=CC=C(C=C1)OCOC)=O | C17H15IO4
